US07666888B2
4-Benzyl-1-{[5-(4-methylphenyl)isoxazol-4-yl]carbonyl}piperidin-4-ol
To 5-(4-methylphenyl)isoxazole-4-carbonyl chloride (10 mg, 0.045 mmol) in dichloromethane (1 mL) was added 4-benzylpiperidin-4-ol (9.5 mg, 0.050 mmol, 1.1 eq.), and the reaction mixture was stirred for 1 h. The solvent was removed, and the residue was purified by preparative reverse-phase HPLC to give the title compound. HRMS (ESI, pos. ion) m/z calcd for C23H24N2O3: 376.1787, found 376.1790.

reactant | 5-(4-methylphenyl)isoxazole-4-carbonyl chloride | 0.045 mmol, 10 mg | CC1=CC=C(C=C1)C1=C(C=NO1)C(=O)Cl | C11H8ClNO2
reactant | 4-benzylpiperidin-4-ol | 0.050 mmol, 9.5 mg, 1.1 eq. | C(C1=CC=CC=C1)C1(CCNCC1)O | C12H17NO
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | 4-Benzyl-1-{[5-(4-methylphenyl)isoxazol-4-yl]carbonyl}piperidin-4-ol | C(C1=CC=CC=C1)C1(CCN(CC1)C(=O)C=1C=NOC1C1=CC=C(C=C1)C)O | C23H24N2O3
